US07692005B2
3-Methyl-thiophene-2-carboxylic acid (3-{2-oxo-3-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide
A small screw cap test tube was charged with 3-Methyl-thiophene-2-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 200 mg, 0.4945 mmol) and THF (5.0 mL). To the resulting solution was added 4-Pyrrolidin-1-ylmethyl-phenylamine (87.1 mg, 0.494 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and diluted with EtOAc (˜5 mL) and Hexane (˜40 mL). The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (˜5 mL) to afford the title compound in 52% yield (0.144 g, 0.256 mmol).

reactant | 3-Methyl-thiophene-2-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.4945 mmol, 200 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1SC=CC1C)=O | C22H16N2O4S
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
reactant | 4-Pyrrolidin-1-ylmethyl-phenylamine | 0.494 mmol, 87.1 mg | N1(CCCC1)CC1=CC=C(C=C1)N | C11H16N2
solvent | EtOAc | ˜5 mL | CCOC(=O)C | C4H8O2
solvent | Hexane | ˜40 mL | CCCCCC | C6H14
product | 3-Methyl-thiophene-2-carboxylic acid (3-{2-oxo-3-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide | 52% yield | O=C1NC2=CC(=CC=C2C1=CNC1=CC=C(C=C1)CN1CCCC1)C(=O)C=1C=C(C=CC1)NC(=O)C=1SC=CC1C | C33H30N4O3S
